US04892576
(b) 5-Amino-N-(2,6-difluorophenyl)-4-methoxycarbonylpyrazole-3-sulphonamide
7.50 g (20 mmol) 5-acetamido-N-(2,6-difluorophenyl)-4-methoxycarbonylpyrazole-3-sulphonamide was suspended in 80 ml 4.4N methanolic hydrochloric acid and heated under reflux for 5 hours. The solvent was distilled and the residue treated with water. The product was suction filtered, washed with water and dried.

reactant | 5-acetamido-N-(2,6-difluorophenyl)-4-methoxycarbonylpyrazole-3-sulphonamide | 20 mmol, 7.50 g | C(C)(=O)NC1=C(C(=NN1)S(=O)(=O)NC1=C(C=CC=C1F)F)C(=O)OC | C13H12F2N4O5S
solvent | hydrochloric acid | 4.4N, 80 ml | Cl | ClH
product | 5-Amino-N-(2,6-difluorophenyl)-4-methoxycarbonylpyrazole-3-sulphonamide | NC1=C(C(=NN1)S(=O)(=O)NC1=C(C=CC=C1F)F)C(=O)OC | C11H10F2N4O4S
